US07951794B2
To a solution of 4-phenyl-5-trifluoromethyl-thiophene-2-carboxylic acid (272 mg, 1.0 mmol) in THF (10 mL), a solution of MeLi (1.30 mL, 1.6 M solution in diethyl ether) is added. The dark red reaction mixture is stirred at it for 10 min. The reaction is quenched by adding sat. aq. NH4Cl (10 mL). The organic phase is separated, dried over Na2SO4 and evaporated. The crude product is purified by prep. HPLC (Waters Xterra MS18, 75×30 mm, 10 μm, 10 to 95% acetonitrile in water containing 0.5% formic acid) to give 1-(4-phenyl-5-trifluoromethyl-thiophen-2-yl)-ethanone (31 mg) as pale yellow oil, LC-MS: tR=1.06 min, 1H NMR (CDCl3): δ 7.62-7.60 (m, 1H), 7.45-7.40 (m, 5H), 2.60 (s, 3H).

reactant | 4-phenyl-5-trifluoromethyl-thiophene-2-carboxylic acid | 1.0 mmol, 272 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)O | C12H7F3O2S
reactant | MeLi | 1.6 M, 1.30 mL | [Li]C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-phenyl-5-trifluoromethyl-thiophen-2-yl)-ethanone | 31 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(C)=O | C13H9F3OS
